US05118816
Preparation of 2-(p-Chlorophenyl)-N-(trifluoroacetyl)-sarcosine
A mixture of 2-(p-chlorophenyl)sarcosine (27 g, 0.135 mol) in dry toluene is treated with 20 cc of trifluoroacetic anhydride, stirred for 1 hour and concentrated in vacuo to give a solid residue. The residue is re-evaporated several times with toluene to give the title product as a red solid, 38.7 g (97% yield), mp 117-118° C., identified by NMR spectroscopy.

reactant | 2-(p-chlorophenyl)sarcosine | 0.135 mol, 27 g | ClC1=CC=C(C=C1)C(NC)C(=O)O | C9H10ClNO2
reactant | trifluoroacetic anhydride | 20 cc | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-(p-Chlorophenyl)-N-(trifluoroacetyl)-sarcosine | 97% yield | ClC1=CC=C(C=C1)C(N(C)C(C(F)(F)F)=O)C(=O)O | C11H9ClF3NO3
